US05302727
A solution of 10.93 g (0.056 mol) of N-methylhomoveratrylamine in 50 ml of abs. dimethylformamide was treated at 5° with 15.7 g of potassium carbonate and 13.6 g (0.056 mol) of (R)-(-)-3-benzyloxy-2-methylpropyl bromide [Helv. Chim. Acta 60, 940, (1977)]. The mixture was stirred at room temperature for 18 hours and then evaporated under reduced pressure. The residue was taken up in a mixture of water and ethyl acetate. The organic extracts were dried over magnesium sulphate and evaporated under reduced pressure. The residue was distilled at 218°/260 Pa. The N-[(S)-3-(benzyloxy)-2-methylpropyl]-3,4-dimethoxy-N-methylphenethylamine, which was obtained as a colourless oil, was used directly in the next step. [α]D ;20 =+7.3° (c=1, ethanol).

reactant | N-methylhomoveratrylamine | 0.056 mol, 10.93 g | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
reactant | potassium carbonate | 15.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-(-)-3-benzyloxy-2-methylpropyl bromide | 0.056 mol, 13.6 g | C(C1=CC=CC=C1)OC[C@H](CBr)C | C11H15BrO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[(S)-3-(benzyloxy)-2-methylpropyl]-3,4-dimethoxy-N-methylphenethylamine | C(C1=CC=CC=C1)OC[C@H](CN(C)CCC1=CC(=C(C=C1)OC)OC)C | C22H31NO3
